* Ideal crossbar read-energy validation
* rows=128 cols=128 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0.0150980332141 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 -0.0237649949179 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 0.0565439706086 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 -0.00861666856316 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 -0.026765481285 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 -0.0221724788253 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0.027589945501 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 -0.0367587811343 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0.00656093824194 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 -0.0115441014428 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 -0.0180226249514 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 0.0226953522416 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 -0.0272760898968 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 0.0933015490287 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 0.035901584366 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 0.0260011119705 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 -0.0598450491144 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0.0432773170974 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 0.0209385732304 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 -0.0131077872026 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 -0.0493580290658 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 -0.0291451894551 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 -0.0599940272394 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0.0457152740868 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 -0.0964682740306 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 -0.00216295853781 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 0.0390944521985 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 -0.00789787275619 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0.0319234401564 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 -0.00815378202017 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0.0201622872024 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0.0191137316358 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 -0.0215061535278 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 -0.028350137724 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0.0183062542581 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 0.0574191528763 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 0.00864231506408 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 -0.0329830458102 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0.0252021976302 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0.0395750145598 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 0.0129638888049 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 0.0077486401647 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 -0.0125859400544 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 0.022696670186 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 0.0362358068916 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0.0432740954557 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 0.0268772977003 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0.0290061331225 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 0.0191801942011 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 -0.0082121880805 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0.0265095936266 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 0.0371880492935 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 -0.0264107069895 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 -0.1 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0.00465094519896 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 -0.0535479350045 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 -0.0196018319667 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 -0.0153981032164 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 -0.0632469683679 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 -0.0416211339699 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 -0.0193579006323 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 -0.0137127248608 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 0.00568450104643 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 -0.0889905698561 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 0.0384429315692 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 -0.0182184921276 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0.00513621699078 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 0.000227119141689 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0.0198732300776 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 0.0176654032166 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 0.0184953396623 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 0.0300963539754 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 -0.0227040809223 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0.0370001618023 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 -0.0455037500198 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 -0.00159882494098 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 -0.0280116636875 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0.00200130975221 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 -0.0262739000446 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 -0.00561393160805 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 0.00522349359441 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 -0.00853469614541 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 -0.00489139832455 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 -0.0968972853227 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0.0267931365107 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 -0.0392515756517 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 0.0158678183436 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0.0438821119182 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0.0405978089955 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0.0540003332071 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 -0.0317046613939 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0.0011224766557 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 -0.0397007450107 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 -0.0139594433234 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 -0.000175031532239 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 0.0148762236597 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 0.0102825634282 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 -0.00710382508742 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 -0.0322085050382 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0.0829497467098 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 0.0425947275504 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0.0126158962814 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 0.0245832295062 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 0.0430600219225 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 0.0211114688046 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 0.0367141078621 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 -0.0301977324635 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 -0.0672001964673 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0.0388399689071 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 0.0045094852383 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0.0373116479874 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 -0.0395658009525 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 -0.00538884819826 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 0.0105326559724 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 -0.0566916571962 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 -0.0281485546544 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0.0578478136768 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 -0.0277233291514 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0.0257967489746 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 -0.0553444059864 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 -0.0261838165076 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 0.0127615735439 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 -0.0300411563533 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 -0.045087591686 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 0.0200133294827 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0.0394298678359 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0.0644945887461 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 -0.0115712129265 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 55.6642729136
Reqrow1 row1 0 62.0317605768
Reqrow2 row2 0 62.5810350193
Reqrow3 row3 0 58.6792938178
Reqrow4 row4 0 61.9991185136
Reqrow5 row5 0 67.7678693557
Reqrow6 row6 0 51.3711359112
Reqrow7 row7 0 56.0202110132
Reqrow8 row8 0 57.6851672112
Reqrow9 row9 0 67.9059403199
Reqrow10 row10 0 61.61167336
Reqrow11 row11 0 58.566168401
Reqrow12 row12 0 63.1144467554
Reqrow13 row13 0 66.5614155618
Reqrow14 row14 0 52.0396907197
Reqrow15 row15 0 54.92697673
Reqrow16 row16 0 71.9329729893
Reqrow17 row17 0 54.8977820179
Reqrow18 row18 0 57.5516537159
Reqrow19 row19 0 59.9410006849
Reqrow20 row20 0 46.0136351294
Reqrow21 row21 0 60.0660435165
Reqrow22 row22 0 54.6060613729
Reqrow23 row23 0 53.0287321755
Reqrow24 row24 0 63.7077483094
Reqrow25 row25 0 61.8994375189
Reqrow26 row26 0 58.0511525083
Reqrow27 row27 0 74.3791494547
Reqrow28 row28 0 55.0266297523
Reqrow29 row29 0 63.0739654617
Reqrow30 row30 0 53.9924283831
Reqrow31 row31 0 57.5439798282
Reqrow32 row32 0 55.2951225385
Reqrow33 row33 0 62.2602761647
Reqrow34 row34 0 55.8699507177
Reqrow35 row35 0 68.9643546445
Reqrow36 row36 0 63.7632274895
Reqrow37 row37 0 44.2083201248
Reqrow38 row38 0 57.0804188268
Reqrow39 row39 0 79.7448907641
Reqrow40 row40 0 57.1874358895
Reqrow41 row41 0 52.9047119957
Reqrow42 row42 0 65.5271673689
Reqrow43 row43 0 56.453368687
Reqrow44 row44 0 53.5643242335
Reqrow45 row45 0 59.6199474587
Reqrow46 row46 0 66.5505095004
Reqrow47 row47 0 55.2821936157
Reqrow48 row48 0 56.8614429208
Reqrow49 row49 0 54.5682049734
Reqrow50 row50 0 59.0004971681
Reqrow51 row51 0 59.7869415061
Reqrow52 row52 0 54.0590666565
Reqrow53 row53 0 50.4476726133
Reqrow54 row54 0 53.5649148971
Reqrow55 row55 0 55.0831044108
Reqrow56 row56 0 71.2229606438
Reqrow57 row57 0 55.5785745236
Reqrow58 row58 0 59.5320010032
Reqrow59 row59 0 62.9521038696
Reqrow60 row60 0 54.0032764445
Reqrow61 row61 0 57.8429705543
Reqrow62 row62 0 63.0605622439
Reqrow63 row63 0 54.0914311165
Reqrow64 row64 0 51.058013708
Reqrow65 row65 0 63.9611229084
Reqrow66 row66 0 64.6086928996
Reqrow67 row67 0 60.4919590218
Reqrow68 row68 0 54.6202683482
Reqrow69 row69 0 49.9655657391
Reqrow70 row70 0 58.2861379692
Reqrow71 row71 0 55.0272807376
Reqrow72 row72 0 46.9448035099
Reqrow73 row73 0 56.828849534
Reqrow74 row74 0 59.5361845328
Reqrow75 row75 0 55.340808803
Reqrow76 row76 0 55.7881629129
Reqrow77 row77 0 54.6067914539
Reqrow78 row78 0 55.4870845839
Reqrow79 row79 0 67.6957276749
Reqrow80 row80 0 65.3732885427
Reqrow81 row81 0 54.6720787577
Reqrow82 row82 0 65.0674181405
Reqrow83 row83 0 69.064190847
Reqrow84 row84 0 58.3901940937
Reqrow85 row85 0 67.9383271485
Reqrow86 row86 0 51.6636922059
Reqrow87 row87 0 56.5791830406
Reqrow88 row88 0 49.6411119456
Reqrow89 row89 0 51.9767484373
Reqrow90 row90 0 55.1979155456
Reqrow91 row91 0 48.07856138
Reqrow92 row92 0 69.1606220676
Reqrow93 row93 0 53.4316076527
Reqrow94 row94 0 55.2400930475
Reqrow95 row95 0 61.9200872028
Reqrow96 row96 0 59.7089383079
Reqrow97 row97 0 64.083639443
Reqrow98 row98 0 65.9223655063
Reqrow99 row99 0 55.4934387371
Reqrow100 row100 0 51.2188339894
Reqrow101 row101 0 56.2134381633
Reqrow102 row102 0 54.1088833892
Reqrow103 row103 0 63.8434158436
Reqrow104 row104 0 54.417487267
Reqrow105 row105 0 54.2096256467
Reqrow106 row106 0 55.8692284609
Reqrow107 row107 0 66.0195407074
Reqrow108 row108 0 67.3124688448
Reqrow109 row109 0 49.3368234399
Reqrow110 row110 0 51.8783516908
Reqrow111 row111 0 61.5566636354
Reqrow112 row112 0 55.1539231633
Reqrow113 row113 0 51.9004909413
Reqrow114 row114 0 60.1817071378
Reqrow115 row115 0 49.0227860641
Reqrow116 row116 0 51.5895185753
Reqrow117 row117 0 57.1402692088
Reqrow118 row118 0 58.2175576079
Reqrow119 row119 0 65.3738522725
Reqrow120 row120 0 61.0496787792
Reqrow121 row121 0 55.8422423424
Reqrow122 row122 0 47.5856561169
Reqrow123 row123 0 49.137415175
Reqrow124 row124 0 62.8773957028
Reqrow125 row125 0 74.8948310814
Reqrow126 row126 0 57.3923811608
Reqrow127 row127 0 58.5492532439
Bpwr pwr 0 v = (v(row0)*v(row0)/55.6642729136) + (v(row1)*v(row1)/62.0317605768) + (v(row2)*v(row2)/62.5810350193) + (v(row3)*v(row3)/58.6792938178) + (v(row4)*v(row4)/61.9991185136) + (v(row5)*v(row5)/67.7678693557) + (v(row6)*v(row6)/51.3711359112) + (v(row7)*v(row7)/56.0202110132) + (v(row8)*v(row8)/57.6851672112) + (v(row9)*v(row9)/67.9059403199) + (v(row10)*v(row10)/61.61167336) + (v(row11)*v(row11)/58.566168401) + (v(row12)*v(row12)/63.1144467554) + (v(row13)*v(row13)/66.5614155618) + (v(row14)*v(row14)/52.0396907197) + (v(row15)*v(row15)/54.92697673) + (v(row16)*v(row16)/71.9329729893) + (v(row17)*v(row17)/54.8977820179) + (v(row18)*v(row18)/57.5516537159) + (v(row19)*v(row19)/59.9410006849) + (v(row20)*v(row20)/46.0136351294) + (v(row21)*v(row21)/60.0660435165) + (v(row22)*v(row22)/54.6060613729) + (v(row23)*v(row23)/53.0287321755) + (v(row24)*v(row24)/63.7077483094) + (v(row25)*v(row25)/61.8994375189) + (v(row26)*v(row26)/58.0511525083) + (v(row27)*v(row27)/74.3791494547) + (v(row28)*v(row28)/55.0266297523) + (v(row29)*v(row29)/63.0739654617) + (v(row30)*v(row30)/53.9924283831) + (v(row31)*v(row31)/57.5439798282) + (v(row32)*v(row32)/55.2951225385) + (v(row33)*v(row33)/62.2602761647) + (v(row34)*v(row34)/55.8699507177) + (v(row35)*v(row35)/68.9643546445) + (v(row36)*v(row36)/63.7632274895) + (v(row37)*v(row37)/44.2083201248) + (v(row38)*v(row38)/57.0804188268) + (v(row39)*v(row39)/79.7448907641) + (v(row40)*v(row40)/57.1874358895) + (v(row41)*v(row41)/52.9047119957) + (v(row42)*v(row42)/65.5271673689) + (v(row43)*v(row43)/56.453368687) + (v(row44)*v(row44)/53.5643242335) + (v(row45)*v(row45)/59.6199474587) + (v(row46)*v(row46)/66.5505095004) + (v(row47)*v(row47)/55.2821936157) + (v(row48)*v(row48)/56.8614429208) + (v(row49)*v(row49)/54.5682049734) + (v(row50)*v(row50)/59.0004971681) + (v(row51)*v(row51)/59.7869415061) + (v(row52)*v(row52)/54.0590666565) + (v(row53)*v(row53)/50.4476726133) + (v(row54)*v(row54)/53.5649148971) + (v(row55)*v(row55)/55.0831044108) + (v(row56)*v(row56)/71.2229606438) + (v(row57)*v(row57)/55.5785745236) + (v(row58)*v(row58)/59.5320010032) + (v(row59)*v(row59)/62.9521038696) + (v(row60)*v(row60)/54.0032764445) + (v(row61)*v(row61)/57.8429705543) + (v(row62)*v(row62)/63.0605622439) + (v(row63)*v(row63)/54.0914311165) + (v(row64)*v(row64)/51.058013708) + (v(row65)*v(row65)/63.9611229084) + (v(row66)*v(row66)/64.6086928996) + (v(row67)*v(row67)/60.4919590218) + (v(row68)*v(row68)/54.6202683482) + (v(row69)*v(row69)/49.9655657391) + (v(row70)*v(row70)/58.2861379692) + (v(row71)*v(row71)/55.0272807376) + (v(row72)*v(row72)/46.9448035099) + (v(row73)*v(row73)/56.828849534) + (v(row74)*v(row74)/59.5361845328) + (v(row75)*v(row75)/55.340808803) + (v(row76)*v(row76)/55.7881629129) + (v(row77)*v(row77)/54.6067914539) + (v(row78)*v(row78)/55.4870845839) + (v(row79)*v(row79)/67.6957276749) + (v(row80)*v(row80)/65.3732885427) + (v(row81)*v(row81)/54.6720787577) + (v(row82)*v(row82)/65.0674181405) + (v(row83)*v(row83)/69.064190847) + (v(row84)*v(row84)/58.3901940937) + (v(row85)*v(row85)/67.9383271485) + (v(row86)*v(row86)/51.6636922059) + (v(row87)*v(row87)/56.5791830406) + (v(row88)*v(row88)/49.6411119456) + (v(row89)*v(row89)/51.9767484373) + (v(row90)*v(row90)/55.1979155456) + (v(row91)*v(row91)/48.07856138) + (v(row92)*v(row92)/69.1606220676) + (v(row93)*v(row93)/53.4316076527) + (v(row94)*v(row94)/55.2400930475) + (v(row95)*v(row95)/61.9200872028) + (v(row96)*v(row96)/59.7089383079) + (v(row97)*v(row97)/64.083639443) + (v(row98)*v(row98)/65.9223655063) + (v(row99)*v(row99)/55.4934387371) + (v(row100)*v(row100)/51.2188339894) + (v(row101)*v(row101)/56.2134381633) + (v(row102)*v(row102)/54.1088833892) + (v(row103)*v(row103)/63.8434158436) + (v(row104)*v(row104)/54.417487267) + (v(row105)*v(row105)/54.2096256467) + (v(row106)*v(row106)/55.8692284609) + (v(row107)*v(row107)/66.0195407074) + (v(row108)*v(row108)/67.3124688448) + (v(row109)*v(row109)/49.3368234399) + (v(row110)*v(row110)/51.8783516908) + (v(row111)*v(row111)/61.5566636354) + (v(row112)*v(row112)/55.1539231633) + (v(row113)*v(row113)/51.9004909413) + (v(row114)*v(row114)/60.1817071378) + (v(row115)*v(row115)/49.0227860641) + (v(row116)*v(row116)/51.5895185753) + (v(row117)*v(row117)/57.1402692088) + (v(row118)*v(row118)/58.2175576079) + (v(row119)*v(row119)/65.3738522725) + (v(row120)*v(row120)/61.0496787792) + (v(row121)*v(row121)/55.8422423424) + (v(row122)*v(row122)/47.5856561169) + (v(row123)*v(row123)/49.137415175) + (v(row124)*v(row124)/62.8773957028) + (v(row125)*v(row125)/74.8948310814) + (v(row126)*v(row126)/57.3923811608) + (v(row127)*v(row127)/58.5492532439)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/high_layers_1_cross_attn_v_proj_r0c1.dat v(pwr)
quit
.endc
.end
